US07977367B2
Intermediate: N,N-dimethyl-1H-imidazole-4-sulfonamide (I-35a)
To a solution of 1H-imidazole-4-sulfonyl chloride (0.5 g, 3.0 mmol; Matrix Scientific, Columbia, S.C.) in dichloromethane (10 mL) was added dimethylamine hydrochloride (0.245 g, 3.0 mmol) and triethylamine (1.3 mL, 9.0 mmol) at room temperature. The mixture was stirred for 16 hours at room temperature. TLC (petroleum ether/ethyl acetate=0:1) indicated the reaction was complete. The reaction mixture was washed with aq. ammonium chloride (30 mL) and extracted with dichloromethane: methanol=4:1 (3×50 mL). The combined organic phases were concentrated and precipitated from methanol to afford (I-35a) (0.36 g, 68.2%) as a white solid; 1H NMR (400 MHz, CD3OD): δ 7.74 (1H), 7.61 (1H), 2.68 (6H).

reactant | 1H-imidazole-4-sulfonyl chloride | 3.0 mmol, 0.5 g | N1C=NC(=C1)S(=O)(=O)Cl | C3H3ClN2O2S
reactant | dimethylamine hydrochloride | 3.0 mmol, 0.245 g | Cl.CNC
reactant | triethylamine | 9.0 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N,N-dimethyl-1H-imidazole-4-sulfonamide | CN(S(=O)(=O)C=1N=CNC1)C | C5H9N3O2S
